US04958028
N-acetyl-3-(2,5-difluorophenyl)imidazolidine-2,4dione (2.29 g, 8.65 mmol), 2-fluorobenzaldehyde (1.13 g, 9.1 mmol) and triethylamine (1.75 g, 17.3 mmol) were heated under reflux in DMF (15 mL) for 3 hours. The solution was cooled, diluted with water and extracted with ethyl acetate (3×). The combined extracts were washed with brine (saturated), dried (over MgSO4), filtered, concentrated, and purified by column chromatography to give 1.4 grams of 5-(2-fluorobenzylidene)-3-(2,5-difluorophenyl)imidazolidine-2,4-dione, m.p. 180°-183° C.

reactant | N-acetyl-3-(2,5-difluorophenyl)imidazolidine-2,4dione | 8.65 mmol, 2.29 g | C(C)(=O)N1C(N(C(C1)=O)C1=C(C=CC(=C1)F)F)=O | C11H8F2N2O3
reactant | 2-fluorobenzaldehyde | 9.1 mmol, 1.13 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | triethylamine | 17.3 mmol, 1.75 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(2-fluorobenzylidene)-3-(2,5-difluorophenyl)imidazolidine-2,4-dione | 1.4 grams | FC1=C(C=C2C(N(C(N2)=O)C2=C(C=CC(=C2)F)F)=O)C=CC=C1 | C16H9F3N2O2
